Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Fosamax
 
Attending: ___.
 
Chief Complaint:
Right hip fracture
 
Major Surgical or Invasive Procedure:
___:  Right hip hemiarthroplasty

 
History of Present Illness:
Ms. ___ is an ___ year old female who had a trip and fall 
onto her right leg at her assisted living facility.  She was 
taken to the ___ for further evaluation and care.
 
Past Medical History:
Osteoporosis
Dementia
Vaginal prolaspe
 
Social History:
___
Family History:
n/a
 
Physical Exam:
Upon admission

Alert and oriented
Cardiac:  Regular rate rhythm
Chest:  Lungs clear bilatearlly
Abdomen:  Soft non-tender non-distended
Extremities:  RLE, + pulses/sensation, pain with 
external/internal rotation, unable to lift leg.
 
Pertinent Results:
___ 06:50AM BLOOD WBC-11.7* RBC-3.58* Hgb-10.7* Hct-33.1* 
MCV-92 MCH-30.0 MCHC-32.5 RDW-13.2 Plt ___
___ 04:55AM BLOOD WBC-13.1* RBC-3.55* Hgb-10.6* Hct-32.3* 
MCV-91 MCH-29.9 MCHC-32.8 RDW-13.0 Plt ___
___ 05:50AM BLOOD WBC-13.7* RBC-3.61* Hgb-11.0* Hct-34.1* 
MCV-95 MCH-30.6 MCHC-32.4 RDW-13.2 Plt ___
___ 04:55PM BLOOD WBC-14.3* RBC-4.15* Hgb-12.4 Hct-38.8 
MCV-94 MCH-30.0 MCHC-32.1 RDW-13.7 Plt ___
___ 07:35AM BLOOD WBC-11.7* RBC-3.93* Hgb-11.9* Hct-36.5 
MCV-93 MCH-30.3 MCHC-32.7 RDW-13.3 Plt ___
___ 06:57PM BLOOD WBC-14.1* RBC-3.93* Hgb-11.9* Hct-36.3 
MCV-92 MCH-30.4 MCHC-32.9 RDW-13.1 Plt ___
___ 04:55PM BLOOD Glucose-139* UreaN-12 Creat-0.7 Na-136 
K-4.2 Cl-102 HCO3-25 AnGap-13
___ 06:57PM BLOOD Glucose-112* UreaN-23* Creat-0.8 Na-139 
K-3.7 Cl-102 HCO3-28 AnGap-13
 
Brief Hospital Course:
Ms. ___ presented to the ___ on ___ after a trip and 
fall at her assisted living facility.  She was evaluated by the 
orthopaedic surgery service and found to have a right hip 
fracture.  She was admitted, consented, and prepped for surgery. 
 She was cleared for surgery by medicine and on ___ she was 
taken to the operating room.  She tolerated the procedure well, 
was extubated, transferred to the recovery room, and then to the 
floor.  On the floor she was seen by physical therapy to improve 
her strength and mobility.  The rest of her hospital stay was 
uneventful with her lab data and vital signs within normal 
limits and her pain controlled.  She is being discharged today 
in stable condition.
 
Medications on Admission:
Calcium
Vitamin D
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
2. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO QID (4 times a day).  
3. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours).  
4. Enoxaparin 40 mg/0.4 mL Syringe Sig: One (1)  Subcutaneous 
QPM (once a day (in the evening)).
Disp:*28 syringe* Refills:*0*
5. Senna 8.6 mg Tablet Sig: ___ Tablets PO HS (at bedtime) as 
needed for constipation.  
6. Bisacodyl 10 mg Suppository Sig: ___ Suppositorys Rectal HS 
(at bedtime) as needed for constipation.  
7. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
8. Oxycodone 5 mg Tablet Sig: One (1) Tablet PO every ___ hours 
as needed for Pain.
Disp:*75 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
s/p fall
Right femoral neck fracture

 
Discharge Condition:
Stable/Good

 
Discharge Instructions:
Continue to be be weight bearing as tolerated on your right leg

Continue your lovenox injections as instructed for a total of 4 
weeks after surgery

Please take all medication as prescribed

If you have any increased redness, drainage, or swelling, or if 
you have a temperature greater than 101.5, please call the 
office or come to the emergency department.
Physical Therapy:
Activity:  Activity as tolerated
 Right lower extremity:  Full weight bearing
Treatments Frequency:
Staples out 14 days after surgery

Dry dressing daily or as needed for drainge or comfort
 
Followup Instructions:
___